US08236950B2
5-Methyl-2-(1H-[1,2,4]triazol-3-ylsulfanyl)-phenylamine
The title compound was prepared from 1-Chloro-4-methyl-2-nitro-benzene (3.00 g, 17.5 mmol), 1H-[1,2,4]Triazole-3-thiol (1.94 g, 19.2 mmol), and K2CO3 (4.22 g, 30.6 mmol) heated in DMF at 100° C. for 16 hrs. Reaction mixture was then cooled to room temperature and diluted with water and extracted with ethyl acetate. Dried over Na2SO4, filtered and concentrated under vacuum giving the title compound (1.1 g, 26%).

reactant | 1-Chloro-4-methyl-2-nitro-benzene | 17.5 mmol, 3.00 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | 1H-[1,2,4]Triazole-3-thiol | 19.2 mmol, 1.94 g | N1N=C(N=C1)S | C2H3N3S
reactant | K2CO3 | 30.6 mmol, 4.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Methyl-2-(1H-[1,2,4]triazol-3-ylsulfanyl)-phenylamine | 1.1 g, 26% | CC=1C=CC(=C(C1)N)SC1=NNC=N1 | C9H10N4S
